US08669266B2
(i) (S)-2-Cyclopropylcarbamoyl-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of 10 g of (S)-Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester in 953 ml of DMF, 9.2 g of HOBT, 11.5 g of EDC, 3.4 g of cyclopropylamine and 13.8 g of DIPEA was added and the reaction mixture was stirred for 16 h at RT. Then, the reaction mixture was diluted with saturated aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic phase was washed with saturated aqueous sodium hydrogen carbonate solution and water and dried over MgSO4. The solvents were removed under reduced pressure and the crude product was pure enough for the next reaction step.

reactant | (S)-Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 10 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)O | C10H17NO4
reactant | HOBT | 9.2 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | cyclopropylamine | 3.4 g | C1(CC1)N | C3H7N
reactant | DIPEA | 13.8 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 953 ml | CN(C)C=O | C3H7NO
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | EDC | 11.5 g
product | (S)-2-Cyclopropylcarbamoyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(NC1CC1)=O | C13H22N2O3
